US05153214
A mixture of methyl (R)-8(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)propyl]octanoate (1.5 g, 3.2 mmol), dioxane (15 ml) and 1N sodium hydroxide (6.6 ml, 6.6 mmol) is stirred at room temperature for 62 hours. The solvent is evaporated and the residue taken up in water and the mixture is adjusted to pH=5.0. The product separates an an oil which solidifies rapidly. It is filtered off and washed with water (4×5 ml) and ether (4×5 ml). Upon drying under vacuum at 60° C. for 18 hours, (R)-8-(p-chlorophenylsulfonamido-4-[3-(3-pyridyl)propyl]octanoic acid is obtained as a white solid, m.p. 113°-114° C.

reactant | methyl (R)-8(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)propyl]octanoate | 3.2 mmol, 1.5 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCC[C@H](CCC(=O)OC)CCCC=1C=NC=CC1 | C23H31ClN2O4S
reactant | sodium hydroxide | 6.6 mmol, 1N, 6.6 ml | [OH-].[Na+]
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | p-chlorophenylsulfonamido-4-[3-(3-pyridyl)propyl]octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC(CCCC)CCCC=1C=NC=CC1 | C22H29ClN2O4S
